US07192968B2
Methyl 7-chloroisoquinoline-3-carboxylate
(±)-N-Formyl-(4-chlorophenyl)alanine methyl ester (1.45 g) was dissolved in dichloromethane (40 ml), and oxalyl chloride (0.57 ml) was added dropwise. After the mixture was stirred at room temperature for 30 minutes, ferric chloride (1.17 g) was added at an ambient temperature of about −10° C. to stir the mixture at room temperature for 4 days. 1N Hydrochloric acid was added, and the resultant mixture was diluted with dichloromethane to separate an organic layer. The organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was dissolved in methanol (38 ml), and concentrated sulfuric acid (2 ml) was added to heat the mixture for 20 hours under reflux. An aqueous solution of sodium hydrogencarbonate was added to the reaction mixture, the resultant mixture was extracted with dichloromethane, and the extract was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=2:1→ethyl acetate) to obtain the title compound (0.25 g) as colorless crystals.

reactant | (±)-N-Formyl-(4-chlorophenyl)alanine methyl ester | 1.45 g | COC([C@@H](N(C=O)C1=CC=C(C=C1)Cl)C)=O | C11H12ClNO3
reactant | oxalyl chloride | 0.57 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Methyl 7-chloroisoquinoline-3-carboxylate | 0.25 g | ClC1=CC=C2C=C(N=CC2=C1)C(=O)OC | C11H8ClNO2
